US05643872
a) Boc-Asp(O-cHex)-Man(4-MBzl)
To a cold solution of Boc-Asp(O-cHex), (31.5 g, 100 mmol) in THF (500 mL) and N-methylmorpholine (13.1 g, 120 mmol), isobutylchloroformate (15.6 mL, 1.2 mmol) was added dropwise. The reaction mixture was stirred for a few minutes and a solution of Man(4-MBzl) (22.0 g, 96 mmol) in THF (500 mL) was added. The reaction mixture was allowed to warm to room temperature and stirred for 18 h. Upon completion of the reaction, the reaction mixture was filtered and the filtrate was concentrated to dryness. The residue was dissolved in ethyl acetate (500 mL), and washed successively with 5% aqueous citric acid (3×150 mL), water (1×400 mL), 10% aqueous NaHCO3 (1×400 mL), water (1×400 mL) and saturated salt solution (1×300 mL). The solution was dried (anhydrous K2CO3), filtered and concentrated to yield the titled compound (53 g).

reactant | Boc-Asp(O-cHex) | 100 mmol, 31.5 g | N([C@@H](CC(OC1CCCCC1)=O)C(=O)O)C(=O)OC(C)(C)C | C15H25NO6
reactant | N-methylmorpholine | 120 mmol, 13.1 g | CN1CCOCC1 | C5H11NO
reactant | Man(4-MBzl) | 96 mmol, 22.0 g | OC1[C@@H](O)[C@@H](O)[C@H](OCC2=CC=C(C)C=C2)[C@H](O1)CO | C14H20O6
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
catalyst | isobutylchloroformate | 1.2 mmol, 15.6 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
product | Boc-Asp(O-cHex) Man(4-MBzl) | 53 g | N([C@@H](CC(OC1CCCCC1)=O)C(=O)O)C(=O)OC(C)(C)C.OC1[C@@H](O)[C@@H](O)[C@H](OCC2=CC=C(C)C=C2)[C@H](O1)CO | InChI=1S/C15H25NO6.C14H20O6/c1-15(2,3)22-14(20)16-11(13(18)19)9-12(17)21-10-7-5-4-6-8-10;1-8-2-4-9(5-3-8)7-19-13-10(6-15)20-14(18)12(17)11(13)16/h10-11H,4-9H2,1-3H3,(H,16,20)(H,18,19);2-5,10-18H,6-7H2,1H3/t11-;10-,11-,12+,13-,14?/m01/s1
